US04481142
9-Chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]-benzazepine
A mixture of 0.5 g (1.3 mmol) of 9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide and 1.0 ml (10 mmol) of phosphorous trichloride in 20 ml of methylene chloride was refluxed for 3 hr. The mixture was cooled, poured over ice, basified with ammonium hydroxide and extracted with methylene chloride. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and concentrated at reduced pressure. The residue crystallized upon the addition of ether to give colorless prisms, mp 121°-123° C.

reactant | 9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide | 1.3 mmol, 0.5 g | ClC1=CC2=C(C3=C(C[N+](=C2C2=C(C=CC=C2)Cl)[O-])C=NC=N3)C=C1 | C18H11Cl2N3O
reactant | phosphorous trichloride | 10 mmol, 1.0 ml | P(Cl)(Cl)Cl | Cl3P
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 9-Chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]-benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NC=N3)C=C1 | C18H11Cl2N3
